US05216156
N-{4,6-Bis[(1-methoxy-2,2,6,6-tetramethylpiperidin-4-yl)butylamino]-1,3,5-triazin-2-yl}-6-aminohexanoic acid
The title compound is prepared from 2-chloro-4,6-bis[N-(1-methoxy-2,2,6,6-tetramethylpiperidin-4-yl)butylamino]-1,3,5-triazine and sodium 6-aminohexanoate according to the procedure of Example 15.

reactant | 2-chloro-4,6-bis[N-(1-methoxy-2,2,6,6-tetramethylpiperidin-4-yl)butylamino]-1,3,5-triazine | ClC1=NC(=NC(=N1)NCCCCC1CC(N(C(C1)(C)C)OC)(C)C)NCCCCC1CC(N(C(C1)(C)C)OC)(C)C | C31H58ClN7O2
reactant | sodium 6-aminohexanoate | NCCCCCC(=O)[O-].[Na+]
product | N-{4,6-Bis[(1-methoxy-2,2,6,6-tetramethylpiperidin-4-yl)butylamino]-1,3,5-triazin-2-yl}-6-aminohexanoic acid | CON1C(CC(CC1(C)C)CCCCNC1=NC(=NC(=N1)NCCCCC1CC(N(C(C1)(C)C)OC)(C)C)NCCCCCC(=O)O)(C)C | C37H70N8O4
